US08378104B2
2-(piperidin-4-yl)-4-[1-(piperidin-4-yl)-1H-pyrazol-4-yl]furo[2,3-c]pyridin-7-amine
A suspension of 4-[1-(piperidin-4-yl)-1H-pyrazol-4-yl]-2-(1,2,3,6-tetrahydropyridin-4-yl)furo[2,3-c]pyridin-7-amine (30 mg, 0.082 mmol) and 10% Pd/C (5 mg) in MeOH (10 mL) was stirred at RT under a H2 balloon for 2 h. The reaction mixture was filtered and concentrated to afford the title compound. 1H NMR (400 MHz, CD3OD): δ 8.29 (s, 1H), 7.89 (s, 1H), 7.73 (s, 1H), 7.19 (s, 1H), 4.62 (m, 1H), 3.49 (m, 4H), 3.34 (m, 1H), 3.15 (m, 4H), 2.29 (m, 6H), 2.07 (m, 2H); MS (ESI): 367.1 [M+H]+.

reactant | 4-[1-(piperidin-4-yl)-1H-pyrazol-4-yl]-2-(1,2,3,6-tetrahydropyridin-4-yl)furo[2,3-c]pyridin-7-amine | 0.082 mmol, 30 mg | N1CCC(CC1)N1N=CC(=C1)C1=C2C(=C(N=C1)N)OC(=C2)C=2CCNCC2 | C20H24N6O
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 5 mg | [Pd] | Pd
product | 2-(piperidin-4-yl)-4-[1-(piperidin-4-yl)-1H-pyrazol-4-yl]furo[2,3-c]pyridin-7-amine | N1CCC(CC1)C1=CC=2C(=C(N=CC2C=2C=NN(C2)C2CCNCC2)N)O1 | C20H26N6O
